US09029360B2
2-Isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine
0.4 g (1.47 mmol) 5-Bromo-azepan-4-one hydrobromide, 0.15 g (1.47 mmol) thioisobutyramide in 3 mL ethanol were stirred under reflux for 3 h. The reaction mixture was concentrated and to the residue DCM and a small amount of methanol were added. The precipitate was removed and the filtrate was evaporated to dryness. Yield: 0.36 g (89% of theory). ESI-MS: m/z=197 (M+H)+; Rt(HPLC): 0.79 min (Method J).

reactant | 5-Bromo-azepan-4-one hydrobromide | 1.47 mmol, 0.4 g | Br.BrC1C(CCNCC1)=O
reactant | thioisobutyramide | 1.47 mmol, 0.15 g | C(C(C)C)(=S)N | C4H9NS
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-Isopropyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine | C(C)(C)C=1SC2=C(CCNCC2)N1 | C10H16N2S
